US04223032
(c) 4Anilino-1,2,3-triazole-5-carboxylic acid
Hydrolysis of ethyl 4-anilino-1,2,3-triazole-5-carboxylate (9.29 g; 0.04 mole) with 1.25 N sodium hydroxide (200 ml) at 90° C. for 18 hrs. gave the free acid in quantitative yield. Recrystallisation from water containing a minimum of ethanol gave material of mp 149.5-150.5° C. (dec) (lit. mp. 153° C., O. Dimroth Annalen 364 183 [1909]), (Found; C, 52.88; H, 4.14; N, 27.36; C9H8N4O2 requires; C, 52.94; H, 3.95; N, 27.44%).

reactant | ethyl 4-anilino-1,2,3-triazole-5-carboxylate | 0.04 mole, 9.29 g | N(C1=CC=CC=C1)C=1N=NNC1C(=O)OCC | C11H12N4O2
solvent | sodium hydroxide | 1.25 N, 200 ml | [OH-].[Na+]
product | 4Anilino-1,2,3-triazole-5-carboxylic acid | quantitative yield | N(C1=CC=CC=C1)C=1N=NNC1C(=O)O | C9H8N4O2
